US04521430
11.2 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are dissolved in 120 ml of acetone, and 7.56 g of sodium bicarbonate are added thereto. 6.4 g of 4-nitrobenzoyl chloride are added to the mixture under ice-cooling and under stirring, and said mixture is stirred at room temperature for 2 hours. After the reaction, 10 ml of water are added to the mixture to dissolve inorganic materials, and said mixture is evaporated under reduced pressure to remove acetone. The oil thus obtained is extracted with ethyl acetate, and the extract is washed with water, dried and then eveporated to remove solvent. 9.3 g of (+)-cis-2-(4-methoxyphenyl)-3-(4-nitrobenzoyloxy)-5-[2-(dimethylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 11.2 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2 | C20H24N2O3S
reactant | sodium bicarbonate | 7.56 g | C([O-])(O)=O.[Na+]
reactant | 4-nitrobenzoyl chloride | 6.4 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | water | 10 ml | O | H2O
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | (+)-cis-2-(4-methoxyphenyl)-3-(4-nitrobenzoyloxy)-5-[2-(dimethylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 9.3 g, Yield: 59.3% | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O)CCN(C)C)C=CC=C2 | C27H27N3O6S
